US07935699B2
The 2-[4-(3-nitro-pyrazol-1-yl)-but-2-ynyl]-isoindole-1,3-dione (1.00 g, 3.23 mmol) was dissolved in ethanol (5 mL) and hydrazine monohydrate (158 μL, 3.23 mmol) was added. The solution was refluxed under nitrogen for 30 min. Upon cooling, the 2,3-dihydro-phthalazine-1,4-dione side product precipitated. The reaction was filtered and rinsed with ethanol (2×3 mL). The filtrate was concentrated in vacuo to give a thick yellow oil. The oil was dissolved in tetrahydrofuran (15 mL), solid sodium bicarbonate (756 mg, 9.00 mmol) and di-tert-butyl dicarbonate (775 mg, 3.55 mmol) was added and the reaction stirred at 25° C. for 4 h. The sodium bicarbonate was filtered off and the filtrate concentrated in vacuo to a thick oil. Purification by flash column chromatography (Merck silica gel 60, 40-63 μm; 15% ethyl acetate/hexanes to 50% ethyl acetate/hexanes) afforded [4-(3-nitro-pyrazol-1-yl)-but-2-ynyl]-carbamic acid tert-butyl ester (423 mg, 47%) as a white waxy solid: H1-NMR (400 MHz, CDCl3) δ 1.45 (9H, s), 3.98 (2H, d, J=5.2 Hz), 4.76-4.86 (1H, bs), 5.01 (2H, t, J=2.0 Hz), 6.90 (1H, d, J=2.8 Hz), 7.74 (1H, d, J=2.4 Hz).

reactant | 2-[4-(3-nitro-pyrazol-1-yl)-but-2-ynyl]-isoindole-1,3-dione | 3.23 mmol, 1.00 g | [N+](=O)([O-])C1=NN(C=C1)CC#CCN1C(C2=CC=CC=C2C1=O)=O | C15H10N4O4
reactant | hydrazine monohydrate | 3.23 mmol, 158 μL | O.NN
reactant | sodium bicarbonate | 9.00 mmol, 756 mg | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 3.55 mmol, 775 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | [4-(3-nitro-pyrazol-1-yl)-but-2-ynyl]-carbamic acid tert-butyl ester | 423 mg, 47% | C(C)(C)(C)OC(NCC#CCN1N=C(C=C1)[N+](=O)[O-])=O | C12H16N4O4
